US04398029
A mixture of 6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester (0.3 g), anhydrous potassium carbonate (0.8 g), methyl iodide (1.6 g), and N,N-dimethyl-formamide (DMF) (10 ml) was heated with stirring at 90°-100° C. for 10 hours. The mixture was evaporated to dryness. The residue was treated with water, extracted with dichloromethane. The organic layer was washed with water, dried over anhydrous sodium sulfate, and evaporated. The residue was added to a mixture of 18% hydrochloric acid (5 ml) and ethanol (2.5 ml) and the mixture was refluxed for 2.5 hours. After water (5 ml) and ethanol (5 ml) added and cooled, the resulting precipitate was filtered off and recrystallized from a mixture of DMF and ethanol to give 6,7,8-trifluoro-1,4-dihydro-1-methyl-4-oxoquinoline-3-carboxylic acid (0.22 g), mp 255°-258° C.

reactant | 6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid ethyl ester | 0.3 g | C(C)OC(=O)C1=CNC2=C(C(=C(C=C2C1=O)F)F)F | C12H8F3NO3
reactant | potassium carbonate | 0.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.6 g | CI | CH3I
solvent | N,N-dimethyl-formamide | 10 ml | CN(C=O)C | C3H7NO
product | 6,7,8-trifluoro-1,4-dihydro-1-methyl-4-oxoquinoline-3-carboxylic acid | 0.22 g | FC=1C=C2C(C(=CN(C2=C(C1F)F)C)C(=O)O)=O | C11H6F3NO3
